* PSpice Model Editor - Version 16.6.0
*$
* BA2903
*
* Rev.002 2016.Feb
*
* Ground Sense Comparator 'Macromodel' Subcircuit
* All Rights Reserved Copyright (c) ROHM CO., LTD.
*
.subckt BA2903 OUT1 -IN1 +IN1 VEE +IN2 -IN2 OUT2 VCC
X_U1 +IN1 -IN1 VCC VEE OUT1 ba2903_sub
X_U2 +IN2 -IN2 VCC VEE OUT2 ba2903_sub
.ends
*$
.SUBCKT ba2903_sub +IN -IN VCC VEE OUT  
Q_Q9         N165977 N165977 VEE QN1 2
Q_Q8         -IN -IN N165380 QN1 
Q_Q15         N164947 N168656 VCC QP1 2.4
Q_Q11         N166538 N165981 VEE QN1 7
Q_Q12         OUT N166538 VEE QN2 3.4
Q_Q6         N165380 N165342 N165342 QN1 
Q_Q16         N165342 N168656 VCC QP2 1.22
Q_Q17         N166538 N172400 VCC QP1 3
Q_Q3         N165130 N164943 N164943 QN1 
Q_Q5         +IN +IN N165130 QN1 
Q_Q14         N164943 N168656 VCC QP2 1.22
Q_Q4         VEE +IN N165130 QP3 
Q_Q2         N165981 N165380 N164947 QP1 1.01 
Q_Q1         N165977 N165130 N164947 QP1 1
Q_Q7         VEE -IN N165380 QP4 
Q_Q10         N165981 N165977 VEE QN1 2
Q_Q18         N168656 N168656 VCC QP1 0.7
Q_Q19         N172400 N172400 VCC QP1 0.7
G_G1         N168656 VEE N215271 VEE 1
I_I5         VEE N215271 DC 1uAdc  
R_R20         VEE N215271  20 TC=-0.0035,0  
I_I6         VEE N216410 DC 1uAdc  
G_G2         N172400 VEE N216410 VEE 1 
R_R21         VEE N216410  18 TC=-0.0045,0 
Q_Q13         VEE N168656 VCC QP1 3.5
*
*
*
.model QN1 npn
+ is=5e-017
+ bf=400
+ nf=1
+ vaf=150
+ ikf=0.003
+tr=5e-10
+tf=5e-10
+cjc=1.8e-12
+xtb=2.5
*
.model QN2 npn
+ is=3e-017
+ bf=500
+ nf=0.947
+ vaf=4
+ ikf=0.0026
+tr=5e-10
+tf=5e-10
+cjc=2e-12
+xtb=0.5
*
.model QP1 pnp
+ is=1e-016
+ bf=1400
+ nf=1
+ vaf=60
+ ikf=3e-005
+ xti=10
*
.model QP2 pnp
+ is=1e-016
+ bf=500
+ nf=1
+ vaf=90
+ ikf=3e-005
+ xti=10.5
*
.model QP3 pnp
+ is=1e-016
+ bf=1400
+ nf=1
+ vaf=60
+ ikf=3e-005
+ xti=9.03
*
.model QP4 pnp
+ is=1e-016
+ bf=1400
+ nf=1
+ vaf=60
+ ikf=3e-005
+ xti=9
*
.ENDS
*$
